US06262089B1
b) (R)-1-[3-[[3-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]propyl-amino]-propionyl]-pyrrolidine-2carboxylic acid benzyl ester
A solution of 400 mg (1.5 mmol) (R)-1-acryloyl-pyrrolidine-2-carboxylic acid benzyl ester and 63 ml (0.75 mmol) propylamine in 5 ml acetonitrile was stirred for 16 h at room temperature, then for 6 h at 45° C., and finally for 16 h at 80° C. Concentration in vacuo and flash chromatography (20% H2O in acetone) afforded 84 mg (19%) of the title compound (R)-1-[3-[[3-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-propyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester as a pale yellow oil.

reactant | (R)-1-acryloyl-pyrrolidine-2-carboxylic acid benzyl ester | 1.5 mmol, 400 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C15H17NO3
reactant | propylamine | 0.75 mmol, 63 ml | C(CC)N | C3H9N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (R)-1-[3-[[3-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]propyl-amino]-propionyl]-pyrrolidine-2carboxylic acid benzyl ester | 84 mg, 19% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCN(CCC)CCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C33H43N3O6
